US06191150B1
Methyl (2R,3R)-2-benzyl-3-hydroxyhexanoate (3.35 g, 14.2 mmol) is dissolved in 35 mL of MeOH. Under an argon atmosphere 1.00 g of 5% rhodium on carbon is added. The reaction vessel is evacuated and refilled with hydrogen several times and then pressurized with hydrogen to 65 psi. After 8 h the reaction vessel is evacuated and refilled with nitrogen. The solution is filtered and the filtrate concentrated in vacuo giving methyl (2R,3R)-2-cyclohexylmethyl-3-hydroxyhexanoate as an oil (3.44 g, 99% yield).

reactant | Methyl (2R,3R)-2-benzyl-3-hydroxyhexanoate | 14.2 mmol, 3.35 g | C(C1=CC=CC=C1)[C@@H](C(=O)OC)[C@@H](CCC)O | C14H20O3
solvent | MeOH | 35 mL | CO | CH4O
catalyst | rhodium on carbon | 1.00 g | [Rh] | Rh
product | methyl (2R,3R)-2-cyclohexylmethyl-3-hydroxyhexanoate | 3.44 g, 99% yield | C1(CCCCC1)C[C@@H](C(=O)OC)[C@@H](CCC)O | C14H26O3
